Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
amoxicillin / Bactrim
 
Attending: ___.
 
Chief Complaint:
"I was just having bad thoughts"
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Per Dr. ___ ___ ED Psychiatry Initial Consultation 
note:

___ yo F history of bipolar I disorder, PTSD, childhood trauma, 
generalized anxiety disorder on prazosin, lamotrigine, buspar 
and abilify who presents on a ___ from ___ with 
her
aunt after reporting progressively worsening depression and 
suicidality, also self-discontinuing her buspar and abilify a 
few weeks ago because she felt that it was making her feel more 
depressed and suicidal. 

On initial evaluation, the patient is seen with her friend, 
___, and her Aunt, ___, who are at bedside. I 
interviewed the patient privately before speaking with both 
___ and ___. 

She explains that she has been having a few weeks of wanting to 
die. She states she has had thoughts like this before, which 
have led up to hospitalizations in the past. She denies having 
any active suicidal thoughts. She reports attending the ___ 
___ Partial for approximately one week. She previously 
attended this partial in the middle of ___ for two weeks, 
but then went on vacation and was discharged. She explains that 
she was referred to the program in the first place after 
presenting at ___ ED for worsening depression.

She also explains that she was recently seeing a psychiatrist 
named ___ at ___, who "told me to stop 
seeing her after I told her that I stopped all my medications." 
She has been resumed on some of her medications slowly at the 
___ program.  She also explains that she has been 
seeing her therapist ___, and last her in the beginning of 
___. In the meantime, she does not have a psychiatrist. 

She explains that she feels the medications were making her feel 
worse and more depressed. She was on 4 medications with her 
former psychiatrist: buspar, abilify, lamictal, and prazosin. 
When she enrolled in the partial program this week, the NP 
started her back on lamictal and prazosin only, which she has 
found helpful only with her nightmares. 

I ask her a few questions regarding her future orientation. She 
states she plans to go back to school and still enjoys going to 
the beach, even in this weather. However, she states, "I don't 
know," when explaining what her outlook on life is. 

She also endorses that she has been having worsening motivation 
to go shower, brush her teeth, and get out of bed in the 
morning, which has been occurring for the past few weeks. She 
also states that she feels about the same mood-wise and with 
regards to her thoughts about death before leading up to her 
prior psychiatric hospitalization in ___. 

She explains that she has been attempting to use her distress 
tolerance skills but that they have not been effective for her, 
and she has no idea why. [Grounding tools, using Wise mind, 
TIPP]. 

In the ED, patient was cooperative and did not have any 
behavioral concerns that required physical or chemical 
restraints. Patient was continued on Prazosin 1mg qHS and 
Lamictal 25mg qHS. 

On admission to the inpatient psychiatric unit, patient 
corroborates the history as above. She reports coming to the 
hospital for her "anxiety and depression" and states that she 
was having "bad thoughts about hurting myself and wanting to 
die." She reports stopping her medications three weeks ago while 
because she thought they were making her feel worse. She 
endorses depressed mood, decreased energy, anhedonia, and recent 
suicidal ideation with a plan to overdose on medications. She 
reports feeling "scared" that she will feel alone in the 
hospital. She reports a history of cutting (last ___ years ago) 
and a previous suicide attempt by "taking medications." She 
denies current suicidal ideation and endorses feeling safe on 
the unit. She says that if her suicidal thoughts return, she 
will notify a nurse or other staff member on the floor. 

She also reports a time in the ___ when she stopped sleeping, 
had increased energy and "I felt like I could do anything." She 
denies risky behavior or being hospitalized at this time, and 
says that she has only been hospitalized for depression. She 
does reports carrying a diagnosis of Bipolar disorder. 

Patient reports that her psychiatrist said she wanted to stop 
seeing the patient after patient self discontinued her 
medications. She reports having a therapist named ___ at 
___ in ___ and says that ___ is "helpful." 
Patient says that during previous hospitalizations, attending 
groups has been the most helpful in making her feel better.
 
Past Medical History:
Past psychiatric history notable for two prior inpatient 
admissions at ___ (in ___ for "mania;" 
___ for depressive symptoms). However, ___ aunt 
indicated that she had been hospitalized twice in ___ as well 
for symptoms related to depression/suicidality. Therapist: 
___ in ___. Prescriber: ___ NP at 
___ 

Medication and ECT trials (per review of ___ Atrius) - 
Mirtazapine 15mg, Buspar 10mg TID, Abilify up to 15mg, Lamictal 
up to 200mg, topamax 50-100mg (also for migraines), Doxepin 
25mg, Chlorpromazine 50mg, Quetiapine XR 50mg, Methylphenidate 
5mg BID/Methylphenidate ER 30 (stimulant trials beginning in 
___

Self-injury: Cutting. Last cut a year ago. Never needed 
stitches; no current urges.
Suicide attempts: Denies, but per Aunt, has taken a few pills in 
the past and required ED visit, but did not require medical 
evaluation
Harm to others: Denies
.
Denies medical history.
PCP: Dr. ___
 
Social History:
-Born/Raised: in ___ 
-Relationship status/Children: Has boyfriend ___ years, no 
children
-Primary Supports: boyfriend, grandparents, aunt 
-___: Lives in ___ with father, grandparent and 
brothers, spends most of her time at boyfriend, ___ home
-Education: Senior at ___ studying psychology, currently on 
medical leave
-Employment/Income: Worked at ___ at ___ History: ___
-Access to weapons: denies
.
SUBSTANCE USE HISTORY:
-Caffeine: 1 cup coffee/day, occasional energy drink
-Tobacco: denies
-___ drinks per week/Denies history of blackouts, 
alcohol withdrawal, DTs, seizures.
-Marijuana: Denies
-Heroin: Denies
-Opiates: Denies
-Benzos: Denies
-Cocaine: Denies
-Amphetamines/speed: Denies
-LSD/PCP: ___: Denies
-Other Drugs: Denies

 
Family History:
-Psychiatric Diagnoses: Mother with reported anxiety, 
depression, bipolar disorder, completed suicide
-Substance Use Disorders: unknown
-Suicide Attempts/Completed Suicides: Mother ___ by 
intentional OD
 
Physical Exam:
General:
-HEENT: Normocephalic, atraumatic.  Moist mucous membranes,
oropharynx clear, supple neck.  No scleral icterus.
-Cardiovascular: Regular rate and rhythm, no murmurs, rubs or
gallops, distal pulses palpable
-Pulmonary: No increased work of breathing.  Lungs clear to
auscultation bilaterally.  No wheezes/rhonchi/rales.
-Abdominal: Non-distended, bowel sounds normoactive.  No
tenderness to palpation in all quadrants.  No guarding, no
rebound tenderness.
-Extremities: Warm and well-perfused.  No edema of the limbs.
-Skin: No rashes or lesions noted.

Neurological:
-Cranial Nerves:
---I: Olfaction not tested.
---II: PERRL
---III, IV, VI: EOMI without nystagmus
---V: Facial sensation intact to light touch in all 
distributions
---VII: No facial droop, facial musculature symmetric and ___
strength in upper and lower distributions, bilaterally
---VIII: Hearing intact to finger rub bilaterally
---IX, X: Palate elevates symmetrically
---XI: ___ strength in trapezii and SCM bilaterally
---XII: Tongue protrudes in midline
-Motor: Normal bulk and tone bilaterally. No abnormal movements,
no tremor. Strength ___ throughout.
-Sensory: No deficits to fine touch throughout
-DTRs: not formally assessed
Coordination: no intention tremor noted
-Gait: Good initiation.  Narrow-based, normal stride and arm
swing.  Able to walk in tandem without difficulty.  

Cognition (from ED consult note on ___: 
Wakefulness/alertness: Alert and awake 
-Attention (digit span, MOYB): Grossly wnl 
-Orientation: ___ , ___ , ___
-Executive function (go-no go, Luria, trails, FAS): not formally
assessed
-Memory:  ___ registration C/H/P; ___ short-term recall C/H/P
-Fund of knowledge: ___
-Calculations:   $1.75 = 7 quarters
-Abstraction:  "The grass is greener on the other side" = 
"Things
are better in other places" 
 Visuospatial:  not assessed
-Language: Native ___ speaker, no paraphasic errors,
appropriate to conversation

Mental Status:
-Appearance: female appearing younger than stated age, embracing
stuffed animal, fair grooming and hygiene, wearing hospital 
gown,
in no apparent distress
-Behavior: cooperative, appropriate eye contact, no psychomotor
agitation or retardation
-Mood: "scared"
-Affect: dysphoric, tearful at times, restricted range
-Speech: Normal rate, volume, and tone
-Thought process: Linear and logical, coherent, goal-oriented, 
no
loose associations
-Thought Content:
---Safety: Denies current suicidal ideation, intent, or plan,
endorses recent SI with plan to OD, denies HI
---Delusions: No evidence of paranoid delusions, grandiose
delusions, persecutory delusions, delusions of reference, or
delusions of thought insertion, withdrawal, or broadcasting
---Obsessions/Compulsions: No evidence based on current 
encounter
---Hallucinations: Denies AVH, not appearing to be attending to
internal stimuli
-Insight: fair
-Judgment: Poor as evidenced by self discontinuing psychotropic
medications

 
Pertinent Results:
___ 02:05PM BLOOD WBC-10.5* RBC-5.07 Hgb-14.3 Hct-41.4 
MCV-82 MCH-28.2 MCHC-34.5 RDW-12.9 RDWSD-37.8 Plt ___
___ 02:05PM BLOOD Glucose-82 UreaN-11 Creat-0.8 Na-136 
K-4.0 Cl-101 HCO3-20* AnGap-15
___ 06:53AM BLOOD ALT-30 AST-16 AlkPhos-55 TotBili-0.5
___ 06:53AM BLOOD Cholest-249*
___ 06:53AM BLOOD %HbA1c-5.0 eAG-97
___ 06:53AM BLOOD Triglyc-102 HDL-49 CHOL/HD-5.1 
LDLcalc-180*
___ 06:53AM BLOOD TSH-1.7
___ 02:05PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG
 
Brief Hospital Course:
1. LEGAL & SAFETY:  
On admission, the patient signed a conditional voluntary 
agreement (Section 10 & 11) and remained on that level 
throughout her admission.  She was also placed on 15 minute 
checks status on admission and remained on that level of 
observation throughout while being unit restricted.
.
2. PSYCHIATRIC:
#) Bipolar Spectrum Disorder
Patient is a ___ yo female with a history of bipolar disorder, 
PTSD, childhood trauma, and generalized anxiety disorder, 
multiple psychiatric hospitalizations, and family history 
notable for a mother who completed suicide, who presents on a 
___ from ___  after reporting progressively 
worsening depression and suicidality with a plan to overdose on 
medications, in the context of recently self-discontinuing her 
psychotropic medications because she felt that it was making her 
more depressed and suicidal. 
.
On admission, patient endorsed depressed mood, anhedonia, poor 
self esteem, fragmented sleep, and poor coping skills. MSE on 
admission was notable for a tearful and dysphoric young female 
who denies current suicidal ideation but feels "scared" about 
being alone and voices recent suicidal thoughts and plan. 
.
___ presentation appeared most consistent with bipolar 
spectrum spectrum disorder (current episode depressed) verses 
MDD.  Bipolar spectrum disorder is most likely given ___ 
reported history of weeks with hypomanic symptoms (grandiosity, 
reduced need for sleep, elevated mood) and history of bipolar 
disorder in a first degree relative.  Given ___ history of 
self injurious and impulsive behavior, affective instability, 
possible unstable relationships (reportedly psychiatrist 
recently terminated w/ patient), and self reported diagnosis of 
borderline personality disorder, there is also concern for an 
underlying personality disorder contributing to ___ 
presentation.
.
Patient was continued on Lamotrigine 25mg PO daily and Prazosin 
1mg qHS. Patient was additionally started on Aripriprazole, 
titrated to 15mg PO daily ___ previous dose before self 
discontinuing medications) and clonidine 0.1mg qAM and at 1400 
for ___ physical symptoms of anxiety.
.
After a few days, patient reported improvement in mood and 
resolution of suicidal ideation and urges. Patient requested 
multiple times to be discharged prior to the weekend despite the 
primary team and family member's concerns for patient leaving 
prematurely if discharged prior to ___ with established 
outpatient follow up. Patient accepted distress tolerance 
worksheets to work through over the weekend. 
On discharge, ___ mental status was notable for moderately 
improved mood and affect, linear thought process, no evidence of 
internal preoccupation and no voiced perceptual disturbances, 
and fair insight and judgment. At the time of discharge, patient 
denied suicidal ideation, intent, or plan. 
 .
3. SUBSTANCE USE DISORDERS:
#) None
.
4. MEDICAL
#)None- Health maintenance labs as above.
.
5. PSYCHOSOCIAL
#) GROUPS/MILIEU:  
The patient was encouraged to participate in the various groups 
and milieu therapy opportunities offered by the unit.  The 
patient often attended these groups that focused on teaching 
patients various coping skills.  Patient was visible, pleasant, 
and cooperative in the milieu. Patient did not present any 
safety or behavioral concerns. 
.
#) COLLATERAL INFORMATION AND  FAMILY INVOLVEMENT
___ family was involved in her treatment and aftercare 
planning. ___ aunt, grandparents, and boyfriend visited 
patient regularly in the evenings. Aunt ___, visited 
patient during the day and met with treatment team. ___ was 
very supportive of the ___ treatment plan and aftercare. 
.
___ explains that Ms. ___ is usually very help-seeking, 
and she reports being very close with her. She endorses that she 
has been having approximately 1 month of worsening depressive 
symptoms and thoughts of death. She also explained that the 
patient did not like the former psychiatrist and that ___ 
seemed overly medicated when she was on 4 medications. ___ 
also is in agreement that the patient should be set up with more 
suitable outpatient providers that would be able to work with 
___. She believes that ___ feels more depressed than 
usual because of a bad interaction she had with her father and 
psychiatrist last week. 
.
___, ___ 
Has seen patient since ___. Reports patient has chronic 
passive suicidal ideation. Patient has a safety plan that she 
has successfully accessed in the past. When ___ depressive 
and suicidal ideations symptoms worsen she has a history of 
reaching out and getting a higher level of care. Patient has 
self presented to the ER when she has felt suicidal in the past. 
Reports that patient stopped her medications in ___, initially 
did not experience any side effects and then felt a lot worse. 
She also had increased nightmares and insomnia after self 
discontinuing prazosin. Patient had a lapse in insurance 
coverage and was able to advocate for herself to obtain new 
insurance coverage. Reports that patient feels triggered in her 
home and prefers to spend time at her aunt's and her boyfriend's 
homes.
.
Summary of Records from ___ -

Discharge Summary ___ - ___
HPI - Self presented to ED due to concerns about worsening 
depression and frequent statements about suicidal ideation with 
a plan either to overdose on ___ meds or cut her arm with a 
knife. Experiencing AH over 3 days prior to this presentation 
and was instructed to go to ER by outpatient psychiatrist. 
Patient currently on leave from college from ___ and living at 
home with her father, grandfather and two brothers in ___ 
and reports having feelings of being overwhelmed and command AH 
to her psychiatrist at ___. She had been hospitalized at 
___ in ___, went to ___ when she 
was ___ at ___. She is currently on Lamictal 200mg at bedtime, 
Topiramate BID, and was on a trial of luradisone 20mg at HS when 
she became acutely depressed and suicidal and agitated and began 
to report AH. Latuda was discontinued after 2 weeks of a trial 
and the last dose was on ___. Patient reports downward 
spiral occurred in and around this trial of latuda. Reports 
experiencing worsening depression over the past two weeks, 
suicidal ideation and hearing voices telling her to kill 
herself. Her sleep would become disrupted, became anhedonic, and 
lacked motivation and was unable to safety contract for safety 
in the community and was admitted to our inpatient unit for 
further stabilization and evaluation. 

___ - Hospitalized at ___ in ___ (and ___. 
She engaged in self-injurious behavior and cute herself 
requiring stitches. She has had multiple medication trials in 
the past. She
is being seen on an outpatient basis through ___ and her 
psychiatrist is ___. Carries diagnosis of PTSD, 
bipolar disorder, major depression. 

Medications on admission were lamictal 200mg daily and 
topiramate 50mg BID. 

Hospital Course - Trial of Abilify; also felt that Vistaril was 
helping with her anxiety. Noted that Abilify was helping with 
her AH, especially at night.

Discharge meds - Abilify 5mg daily, Lamictal 200mg daily and 
Topamax 50mg BID. 

Discharge diagnosis - Bipolar Disorder, PTSD

Discharge Summary ___ - ___
HPI - admitted for worsening depression with suicidal thoughts 
and intentional overdose of 13 hydroxyzine. Identified worsening 
depressive symptoms and strain of missing her own mother who 
passed away due to an overdose which was a suicide attempt that 
the patient had witnessed. Patient reported being traumatized by 
this and was a period of time that was difficult for the 
patient. Also reported having difficulty in school. As soon as 
patient took 13 hydroxyzine, she immediately regretted it and 
called her boyfriend right away who brought her to the hospital. 
She was evaluated, treated, and brought to inpatient unit. 

Medications on admission -  Abilify 15mg daily, Lamictal 200mg 
daily, Topamax 50mg QAM + 100mg QHS

PPH - Stated that she has been depressed since she was ___ and in 
treatment since she was ___. Has a psychiatrist at ___ and 
therapist for the past ___ years. Medication trials included 
Paxil and Zoloft (in addition to current medications), but noted 
that Paxil and Zoloft caused anxiety and mood swings. Bupropion 
was also tried but had caused her to get hives. Has not previous 
suicide attempts other than the current episode, no other 
episodes of self-harm. 

Hospital Course - Continued on Abilify 15mg daily, Lamictal 
200mg daily, Topamax 50mg QAM + 100mg QHS. Also started on 
prazosin for trauma and nightmares for racing thoughts. Reported 
improved sleep with prazosin and feeling calmer with less racing 
thoughts with thorazine. 

Discharge Medications - Abilify 15mg daily, Lamictal 200mg 
daily, Topamax 50mg QAM + 100mg QHS, Prazosin 1mg QHS, Thorazine 
50mg Q6hrs PRN for anxiety (not to exceed two doses per day)

Discharge diagnosis - Major Depression, PTSD

Discharge Summary ___ - ___
HPI - Presented for increased depression and suicidal ideation. 
Reported that she had been medication compliant since her last 
discharge about a month prior to this admission. She did not act 
on increasingly depressive symptoms or suicidal ideation. 
Instead she reports that she reached out for help. Her Abilify 
was increased from 10 to 15mg by her outpatient psychiatrist. 
However, she continued to feel depressed and continued to feel 
suicidal and she was brought in to the emergency room for 
further evaluation by her family. Her symptoms at time of 
admission were ongoing suicidal thoughts. She doesn't want to 
die. She denies any acute stressors. She reached out for help 
and was brought to the ED where she was evaluated and reports 
that for about a week she had crashed and became acutely 
depressed after a period of decreased need for sleep. 

Medications on admission - Abilify which was just changed in 
dose, Buspar 5mg TID, Lamictal 200mg daily, Topamax 50mg QAM + 
100mg QHS, Prazosin 1mg QHS, and Remeron 7.5mg at night.

Hospital Course - Patient attended the unit programs and able to 
go to groups. She had demonstrated little insight into what was 
causing her problems but changed since she was last here. She 
did over time articulate what she thinks that the hope of the 
medication working was actually more positive than her actually 
having received much benefit from it. She was able to reach out 
to people instead of acting on suicidal thoughts. She was 
tolerating increase in Abilify that had just been instated. 
Ultimately she was anxious and intermittently dysphoric at time 
of discharge but in no acute distress. 

Medications on discharge - Continued on Abilify 15mg, Lamictal 
200mg daily, Topamax 50mg in the morning and 100mg at night, 
Prazosin 1mg at bedtime, Buspar 5mg TID and Remeron 7.5mg QHS

Disposition - Patient was going to continue on with treatment 
and medication adjustments in the PHP where she would have her 
intake on ___ at ___'s program in ___. She 
will follow up with their psychiatric nurse practitioner and 
therapist. She was given an ___ worker through ___.

Discharge Diagnosis - Major Depressive Disorder, PTSD, Bipolar 
Disorder, Schizoaffective Disorder Bipolar type.
.
#) INTERVENTIONS
- Medications: Aripriprazole 15mg PO daily, lamotrigine 25mg PO 
daily, prazosin 1mg PO qHS, clonidine 0.1mg PO BID (qAM and at 
14:00)
- Psychotherapeutic Interventions: Individual, group, and milieu 
therapy.
- Coordination of aftercare: Patient has outpatient follow up 
with PCP through ___, and therapist and nurse 
practitioner at ___.
.
INFORMED CONSENT: The team discussed the indications for, 
intended benefits of, and possible side effects and risks of 
starting aripriprazole, and risks and benefits of possible 
alternatives, including not taking the medication, with this 
patient.  We discussed the ___ right to decide whether to 
take this medication as well as the importance of the ___ 
actively participating in the treatment and discussing any 
questions about medications with the treatment team.  The 
patient appeared able to understand and consented to begin the 
medication.
.
RISK ASSESSMENT
On presentation, the patient was evaluated and felt to be at an 
increased risk of harm to herself  based upon significant 
concern from family members and outpatient providers for 
___ inability to maintain safety in outpatient partial 
program.  Her static factors noted at that time include history 
of suicide attempts, history of abuse, chronic mental illness, 
recent discharge from an inpatient psychiatric unit, , marital 
status, and possible concurrent personality disorder.  The 
modifiable risk factors including suicidal ideation with plan, 
medication non-compliance, hopelessness, insomnia, and 
impulsivity were also addressed at that time.  These modifiable 
risk factors were addressed during her  admission via medication 
initiation and adjustment, acute stabilization within a 
therapeutic milieu, individual and group  therapy, and aftercare 
planning. Finally, the patient is being discharged with many 
protective risk factors including help seeking nature, future 
oriented viewpoint, positive therapeutic relationship with 
outpatient therapist, lack of suicidal ideation, and no history 
of substance use disorder.  Overall, the patient is not at an 
acutely elevated risk of self-harm nor danger to others due to 
acutely decompensated psychiatric illness. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Prazosin 1 mg PO QHS 
2. LamoTRIgine 25 mg PO QHS 

 
Discharge Medications:
1.  ARIPiprazole 15 mg PO DAILY 
RX *aripiprazole [Abilify] 15 mg 1 tablet(s) by mouth daily Disp 
#*14 Tablet Refills:*1 
2.  CloNIDine 0.1 mg PO BID 
RX *clonidine HCl [Catapres] 0.1 mg 1 tablet(s) by mouth twice a 
day Disp #*28 Tablet Refills:*1 
3.  LamoTRIgine 25 mg PO QHS 
RX *lamotrigine [Lamictal] 25 mg 1 tablet(s) by mouth daily Disp 
#*14 Tablet Refills:*1 
4.  Prazosin 1 mg PO QHS 
RX *prazosin [Minipress] 1 mg 1 capsule(s) by mouth at bedtime 
Disp #*14 Capsule Refills:*1 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Bipolar spectrum disorder
r/o personality traits
r/o PTSD
r/o unspecified anxiety disorder

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___